US05236952
A suspension of 8.3 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone is treated with 1-(1-adamantyl)-2-thiourea in 90 ml of n-butanol and the mixture is heated to boiling under reflux for 4 hours. After cooling to room temperature, the crystals are filtered under suction and recrystallized from n-butanol. There is obtained 5-[2-(1-adamantylamino)-5-thiazolyl]-3-nitropyrocatechol hydrobromide of m.p. 245°-247°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 8.3 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 1-(1-adamantyl)-2-thiourea | C12(CC3CC(CC(C1)C3)C2)NC(=S)N | C11H18N2S
solvent | n-butanol | 90 ml | C(CCC)O | C4H10O
product | 5-[2-(1-adamantylamino)-5-thiazolyl]-3-nitropyrocatechol hydrobromide | Br.C12(CC3CC(CC(C1)C3)C2)NC=2SC(=CN2)C2=CC(=C(C(O)=C2)O)[N+](=O)[O-] | InChI=1S/C19H21N3O4S.BrH/c23-15-5-13(4-14(17(15)24)22(25)26)16-9-20-18(27-16)21-19-6-10-1-11(7-19)3-12(2-10)8-19;/h4-5,9-12,23-24H,1-3,6-8H2,(H,20,21);1H
